* File: G2_AOI21_N3.pex.netlist.pex
* Created: Wed Mar  2 11:06:41 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N3_VSS 2 4 6 8 10 22 26 37 42 45 50 55 64 73 74 76 84 85 86
+ 91 93 95 96 Vss
c49 96 Vss 4.28045e-19
c50 93 Vss 0.00619319f
c51 91 Vss 0.00198426f
c52 86 Vss 0.00132518f
c53 85 Vss 4.66086e-19
c54 84 Vss 0.00250771f
c55 76 Vss 0.00104615f
c56 74 Vss 0.0115666f
c57 73 Vss 0.00377781f
c58 72 Vss 0.00133883f
c59 64 Vss 0.00549635f
c60 55 Vss 2.01624e-19
c61 50 Vss 0.00158461f
c62 45 Vss 0.00140655f
c63 42 Vss 0.010059f
c64 37 Vss 0.00967911f
c65 33 Vss 0.0299311f
c66 26 Vss 0.0997249f
c67 22 Vss 0.0346879f
c68 21 Vss 0.0688416f
c69 10 Vss 0.189919f
c70 8 Vss 0.190645f
c71 4 Vss 0.189496f
r72 92 96 0.551426
r73 92 93 18.3386
r74 91 96 0.551426
r75 90 91 5.50157
r76 86 96 0.0828784
r77 84 93 0.652036
r78 84 85 4.33457
r79 80 85 0.652036
r80 75 95 0.326149
r81 74 90 0.652298
r82 74 75 15.1308
r83 73 76 0.655813
r84 72 95 0.326149
r85 72 73 5.50157
r86 55 86 1.82344
r87 50 64 1.16709
r88 50 80 2.16729
r89 45 76 1.82344
r90 42 55 1.16709
r91 37 45 1.16709
r92 29 64 0.0476429
r93 27 33 0.494161
r94 27 29 1.5171
r95 26 30 0.652036
r96 26 29 1.4004
r97 23 33 0.128424
r98 21 33 0.494161
r99 21 22 2.8008
r100 18 22 0.652036
r101 10 30 5.1348
r102 8 23 5.1348
r103 6 42 0.123773
r104 4 18 5.1348
r105 2 37 0.123773
.ends

.subckt PM_G2_AOI21_N3_VDD 2 4 6 8 10 37 42 45 46 48 50 54 56 57 58 63 65 66 68
+ Vss
c46 74 Vss 0.00518871f
c47 66 Vss 4.52364e-19
c48 65 Vss 0.00365047f
c49 63 Vss 0.0105984f
c50 58 Vss 0.0017471f
c51 57 Vss 6.04409e-19
c52 56 Vss 0.00309603f
c53 54 Vss 0.00166686f
c54 51 Vss 0.00173381f
c55 50 Vss 0.0117783f
c56 48 Vss 0.00158874f
c57 46 Vss 0.00143356f
c58 45 Vss 0.00453567f
c59 42 Vss 0.00811165f
c60 37 Vss 0.00818763f
c61 33 Vss 0.0307825f
c62 26 Vss 0.101624f
c63 22 Vss 0.0367711f
c64 21 Vss 0.0712517f
c65 8 Vss 0.189919f
c66 6 Vss 0.190692f
c67 2 Vss 0.191052f
r68 65 68 0.326018
r69 64 66 0.551426
r70 64 65 5.50157
r71 63 66 0.551426
r72 62 63 18.3386
r73 58 66 0.0828784
r74 58 60 1.82344
r75 56 62 0.652036
r76 56 57 4.37625
r77 54 74 1.16709
r78 52 57 0.652036
r79 52 54 2.16729
r80 50 68 0.326018
r81 50 51 15.6711
r82 46 48 1.82344
r83 45 51 0.652036
r84 44 46 0.655813
r85 44 45 5.50157
r86 42 60 1.16709
r87 37 48 1.16709
r88 29 74 0.0476429
r89 27 33 0.494161
r90 27 29 1.45875
r91 26 30 0.652036
r92 26 29 1.45875
r93 23 33 0.128424
r94 21 33 0.494161
r95 21 22 2.8008
r96 18 22 0.652036
r97 10 42 0.123773
r98 8 30 5.1348
r99 6 23 5.1348
r100 4 37 0.123773
r101 2 18 5.1348
.ends

.subckt PM_G2_AOI21_N3_B 2 4 18 21 26 31 Vss
c16 31 Vss 0.00388419f
c17 26 Vss 0.00329073f
c18 18 Vss 0.00129628f
c19 13 Vss 0.166936f
c20 2 Vss 0.166574f
r21 23 31 1.16709
r22 21 23 1.50043
r23 18 26 1.16709
r24 18 21 3.33429
r25 13 31 0.50025
r26 10 26 0.50025
r27 4 13 4.37625
r28 2 10 4.37625
.ends

.subckt PM_G2_AOI21_N3_A 2 10 15 18 Vss
c18 18 Vss 0.00491359f
c19 15 Vss 1.59029e-19
c20 10 Vss 0.0840432f
c21 2 Vss 0.189817f
r22 15 18 1.16709
r23 10 18 0.0476429
r24 7 10 1.92555
r25 4 7 0.0685365
r26 2 4 5.1348
.ends

.subckt PM_G2_AOI21_N3_Z 2 4 6 8 23 27 30 33 Vss
c30 30 Vss 0.00177765f
c31 27 Vss 0.0057887f
c32 23 Vss 0.0064473f
c33 8 Vss 0.00143493f
c34 6 Vss 0.00143493f
r35 33 35 7.5855
r36 30 33 5.2515
r37 27 35 1.16709
r38 23 30 1.16709
r39 8 27 0.123773
r40 6 23 0.123773
r41 4 27 0.123773
r42 2 23 0.123773
.ends

.subckt PM_G2_AOI21_N3_C 2 4 6 13 14 20 25 Vss
c25 25 Vss 6.91354e-19
c26 23 Vss 0.0299669f
c27 20 Vss 0.257118f
c28 14 Vss 0.0357307f
c29 13 Vss 0.233777f
c30 4 Vss 0.290124f
c31 2 Vss 0.292381f
r32 25 28 0.0833571
r33 20 28 1.16709
r34 18 23 0.494161
r35 18 20 2.8008
r36 15 23 0.494161
r37 13 23 0.128424
r38 13 14 8.92755
r39 10 14 0.652036
r40 6 20 5.6016
r41 4 15 8.4024
r42 2 10 8.4024
.ends

